US05059345
0.6 g of the thus obtained trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid was heated in toluene with 5 ml of thionyl chloride. Then, toluene was distilled off to obtain trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid chloride. The thus obtained acid chloride was dissolved in 40 ml of carbon tetrachloride to obtain a solution, to which added were 5 ml of pyridine and a solution prepared by dissolving 0.56 g of (S)-3-hydroxy-4-(1-oxo-2-methylbutyl)phenol in 10 ml of carbon tetrachloride. The admixture was stirred at the room temperature for a day to proceed the reaction. After refluxing for additional one hour, water was added to the admixture, and the organic phase was separated. The separated organic phase was rinsed initially with a dilute hydrochloric solution, then with an aqueous solution of NaHCO3, and finally with a saturated aqueous solution of NaCl. The rinsed organic phase was dried over anhydrous Na2SO4 by allowing the same to stand for one night. The solvent was distilled off from the dried organic phase to obtain crude (S)-4-(1 -oxo-2-methylbutyl)-3-hydroxyphenyl trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylate. The thus obtained crude product was recrystallized from ethanol for two times to obtain 0.04 g of a recrystallized product which was identified by infra-red absorption spectrum (IR) and nuclear magnetic resonance spectrum (NMR).

reactant | trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid | C(CCCCCCCC)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)O | C22H34O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid chloride | C(CCCCCCCC)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)Cl | C22H33ClO2
